US05539091
(a) Preparation of N-decyllactosylamine
The process was carried out in essentially the same manner as in Step (a) of Example 5, using 21 g of lactose and 15.2 g of decylamine.

reactant | lactose | 21 g | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
reactant | decylamine | 15.2 g | C(CCCCCCCCC)N | C10H23N
product | N-decyllactosylamine | CCCCCCCCCCNC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O)O)O | C22H43NO10
